US04394515
8-Methoxydibenzo[b,f]thiepin-3-carboxylic Acid
1 G. 8-hydroxydibenzo[b,f]thiepin-3-carboxylic acid is stirred in 50 cc. dimethylformamide with 1.5 g. potassium carbonate and 3 cc. methyl iodide. 100 cc. water is added to the reaction mixture, heated for three hours and then extracted with ethyl acetate, and the aqueous layer acidified. The precipitated solid is filtered, washed with water and a small volume of cold methanol, and dried. Yield of the desired material 700 mg.

reactant | 8-hydroxydibenzo[b,f]thiepin-3-carboxylic acid | OC=1C=CC2=C(C=CC3=C(S2)C=C(C=C3)C(=O)O)C1 | C15H10O3S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | CI | CH3I
solvent | water | O | H2O
product | 8-Methoxydibenzo[b,f]thiepin-3-carboxylic Acid | COC=1C=CC2=C(C=CC3=C(S2)C=C(C=C3)C(=O)O)C1 | C16H12O3S
